US05731322
(±)-trans-6-Ethyl-2-ethoxycarbonyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-3-trifluoromethyl-1H-pyrrolo[2,3-g]isoquinoline
3.24 g (10 mmol) of (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 8.65 g (30 mmol) of ethyl 2-phenylhydrazono-4,4,4-trifluoro-3-oxobutyrate, 2.46 g (30 mmol) of CH3COONa, 7.85 g (120 mmol) of zinc dust and 15 ml of glacial acetic acid were treated as described in example 1. The residue was purified by chromatography on silica gel EtOAc/MeOH 0%→10%) yielding 3.0 g of product which was triturated in Et2O yielding 2.5 g of the title compound. M.p. 209°-211° C.

reactant | (±)-trans-2-ethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 10 mmol, 3.24 g | Cl.C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | ethyl 2-phenylhydrazono-4,4,4-trifluoro-3-oxobutyrate | 30 mmol, 8.65 g | C1(=CC=CC=C1)NN=C(C(=O)OCC)C(C(F)(F)F)=O | C12H11F3N2O3
reactant | CH3COONa | 30 mmol, 2.46 g | CC(=O)O[Na]
catalyst | zinc | 120 mmol, 7.85 g | [Zn] | Zn
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-6-Ethyl-2-ethoxycarbonyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-3-trifluoromethyl-1H-pyrrolo[2,3-g]isoquinoline | 3.0 g | C(C)N1C[C@H]2CC3=C(C[C@@]2(CC1)C1=CC(=CC=C1)OC)NC(=C3C(F)(F)F)C(=O)OCC | C24H29F3N2O3
